US08912188B2
To a solution of methyl 2-(1,3-benzothiazol-2-yl)-3-[(2S)-2-methylpyrrolidin-1-yl]quinoxaline-6-carboxylate (80 mg, 0.20 mmol) in tetrahydrofuran (20 mL) was added NaOH (23.8 mg, 0.60 mmol) and water (1 mL). The resulting solution was stirred overnight at room temperature and then concentrated in vacuo, adjusted the pH to 7 with HCl (3 N). The product was collected and filtered to afford 2-(1,3-benzothiazol-2-yl)-3-[(2S)-2-methylpyrrolidin-1-yl]quinoxaline-6-carboxylic acid as a light yellow solid (43.8 mg, 57%).

reactant | methyl 2-(1,3-benzothiazol-2-yl)-3-[(2S)-2-methylpyrrolidin-1-yl]quinoxaline-6-carboxylate | 0.20 mmol, 80 mg | S1C(=NC2=C1C=CC=C2)C2=NC1=CC=C(C=C1N=C2N2[C@H](CCC2)C)C(=O)OC | C22H20N4O2S
reactant | NaOH | 0.60 mmol, 23.8 mg | [OH-].[Na+]
reactant | water | 1 mL | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-(1,3-benzothiazol-2-yl)-3-[(2S)-2-methylpyrrolidin-1-yl]quinoxaline-6-carboxylic acid | 43.8 mg, 57% | S1C(=NC2=C1C=CC=C2)C2=NC1=CC=C(C=C1N=C2N2[C@H](CCC2)C)C(=O)O | C21H18N4O2S
